US05149809
Fifty grams of 1,3-diaminopentane (99%, 0.485 mole), 116 g (1.07 moles) adiponitrile and 2.3 g Raney® nickel were charged to a 300 cc autoclave reactor. The mixture was stirred and heated at 90° C. and 650 psig hydrogen pressure for 10 hours. The mixture was cooled and filtered under nitrogen. Capillary GC analysis of the filtered product indicated a 56% conversion of 1,3-diaminopentane and 59% yield of 2-(4-cyanobutyl)-4-ethylhexahydropyrimidine.

reactant | 1,3-diaminopentane | 0.485 mole, Fifty grams | NCCC(CC)N | C5H14N2
reactant | adiponitrile | 1.07 moles, 116 g | C(CCCCC#N)#N | C6H8N2
reactant | hydrogen | [H][H] | H2
catalyst | Raney® nickel | 2.3 g | [Ni] | Ni
product | 2-(4-cyanobutyl)-4-ethylhexahydropyrimidine | 59% yield | C(#N)CCCCC1NCCC(N1)CC | C11H21N3
